US05552404
N-Cyclopropylaniline was then be coupled with 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)-benzyl)benzoyl chloride, deprotected and purified by the methods described in Example 10 to give 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-cyclopropyl-N-phenylbenzamide as a yellow powder. NMR (200 MHz, DMSO-d6): δ0.44 (m, 2H); 0.70 (m, 2H); 0.93 (d, J=6.1 Hz, 3H); 1.01 (d, J=5.7 Hz, 3H); 1.74 (dd, J1 =7.7 Hz, J2 =11.8 Hz, 1H); 2.05 (dd, J1 =6.8 Hz, J2 =11.1 Hz, 1H); 2.39 (br d, J=10.5 Hz, 1H); 2.41-2.54 (m, 2H); 2.69 (br d, J=11.8 Hz, 1H); 2.83 (dd, J1 =6.6 Hz, J2 =13.6 Hz, 1H); 3.05-3.36 (m, 2H); 4.83 (s, 1H); 5.10 (d, J=9.8 Hz, 1H); 5.17 (d, J=17.4 Hz, 1H); 5.70-5.86 (m, 1H); 6.57 (d, J=7.1 Hz, 1H); 6.63 (s, 1H); 6.65 (d, J=8.2 Hz, 1H); 7.03-7.38 (m, 10H); 9.34 (s, 1H). Mass spectrum (CI--CH4) m/e: 496 (M+1, 100%), 342 (45%), 153 (90%). [α]D20 =+7.1° (abs. ethanol, c=1.1). The free amine was dissolved in ethanol and titrated with ethanolic hydrogen chloride to pH 3.95 followed by precipitation with diethyl ether from dichloromethane to give the monohydrochloride salt as a hygroscopic orange powder. Calc. for C32H37N3O2HCl 1.50H2O: C, 68.74; H, 7.39; N, 7.51; Cl, 6.34. Found: C, 68.56; H, 7.49; N, 7.26; Cl, 6.37.

reactant | N-Cyclopropylaniline | C1(CC1)NC1=CC=CC=C1 | C9H11N
reactant | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-(tert-butyldimethylsilyloxy)-benzyl)benzoyl chloride | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C=1C=C(C(=O)Cl)C=CC1)C | C29H41ClN2O2Si
product | 3-((αR)-α-((2S,5R)-4-allyl-2,5-dimethyl-1-piperazinyl)-3-hydroxybenzyl)-N-cyclopropyl-N-phenylbenzamide | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O)C=1C=C(C(=O)N(C2=CC=CC=C2)C2CC2)C=CC1)C | C32H37N3O2
